US05684186
10 g of 3-(4-hydroxyphenyl)pyruvic acid and 50 ml of methanol were charged to a pressure reactor to form a solution, and 0.5 g of 5% palladium on charcoal was added thereto. The atmosphere was displaced with hydrogen, and the mixture was stirred at 25° C. under a hydrogen pressure of 5 kg/cm2 for 2 hours. After completion of the reaction, the reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure to give 10.1 g of 3-(4-hydroxyphenyl)lactic acid as colorless crystals.

reactant | 3-(4-hydroxyphenyl)pyruvic acid | 10 g | OC1=CC=C(C=C1)CC(C(=O)O)=O | C9H8O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 3-(4-hydroxyphenyl)lactic acid | 10.1 g | OC1=CC=C(C=C1)CC(C(=O)O)O | C9H10O4
